US09145437B2
To a round bottom flask add tert-butyl 4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (1.38 mmol), 2-(isobutylcarbamoylamino)acetic acid (1.15 mmol), dimethylformamide (3.8 mL), triethylamine (1.72 mmol) and HATU (1.26 mmol. Stir at room temperature for 16 hours, then dilute with water (50 mL) and ethyl acetate (50 mL). Wash the organic phase with concentrated ammonium chloride (50 mL) and brine (50 mL). Dry the organics over sodium sulfate, filter, and concentrate under reduced pressure. Purify the intermediate by flash chromatography (40 g silica gel cartridge) eluting with 0-10% methanol in ethyl acetate to yield tert-butyl 9-[2-(isobutylcarbamoylamino)acetyl]-4,9-diazaspiro[5.5]undecane-4-carboxylate (0.38 g, 0.93 mmol): MS (m/z): 411.2 (M+H).

reactant | tert-butyl 4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 1.38 mmol | Cl.C1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | 2-(isobutylcarbamoylamino)acetic acid | 1.15 mmol | C(C(C)C)NC(=O)NCC(=O)O | C7H14N2O3
reactant | triethylamine | 1.72 mmol | C(C)N(CC)CC | C6H15N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3.8 mL | CN(C=O)C | C3H7NO
product | tert-butyl 9-[2-(isobutylcarbamoylamino)acetyl]-4,9-diazaspiro[5.5]undecane-4-carboxylate | 0.93 mmol, 0.38 g | C(C(C)C)NC(=O)NCC(=O)N1CCC2(CN(CCC2)C(=O)OC(C)(C)C)CC1 | C21H38N4O4
